US07964618B2
N-(2-adamantyl)-6-chloro-2-cyclopentylsulfanyl-pyridine-3-carboxamide
Anhydrous Sodium carbonate (2.201 mL, 52.58 mmol) was added in one portion to N-(2-adamantyl)-2,6-dichloro-pyridine-3-carboxamide (5.7 g, 17.53 mmol) and cyclopentyl mercaptan (1.885 mL, 17.53 mmol) in DMF (50 mL) under nitrogen. The resulting suspension was stirred at 60° C. for 6 hours.

reactant | Sodium carbonate | 52.58 mmol, 2.201 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | N-(2-adamantyl)-2,6-dichloro-pyridine-3-carboxamide | 17.53 mmol, 5.7 g | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NC(=CC2)Cl)Cl | C16H18Cl2N2O
reactant | cyclopentyl mercaptan | 17.53 mmol, 1.885 mL | C1(CCCC1)S | C5H10S
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
product | N-(2-adamantyl)-6-chloro-2-cyclopentylsulfanyl-pyridine-3-carboxamide | C12C(C3CC(CC(C1)C3)C2)NC(=O)C=2C(=NC(=CC2)Cl)SC2CCCC2 | C21H27ClN2OS
